US07479575B2
b) Step 1: Synthesis of 2-(4-bromophenyl)-1-(4-methoxyphenyl) ethanone (Va)
To a 50 mL three-necked flask containing AlCl3 (4.406 g; 33.05 mmol) under N2, anisole (IVa) (4.467 g; 41.31 mmol) was added in one portion at RT. The reaction was exothermic. To this suspension (4-bromo-phenyl)-acetyl chloride (IIIa) (6.430 g; 27.54 mmol) was added drop wise keeping temperature below 20° C. Then the resulting red suspension was stirred at RT for 3h30. The red thick solution was poured under stirring into a mixture of ice and 1N HCl (100 mL), then the resulting white solid was filtered, and washed with water. The solid was washed with pentane (3×30 mL) and dried under vacuum at RT to give a white powder (m=8.51 g). Purification was performed by crystallization from acetone (30 ml) to give the title compound as a white powder (m=6.113 g) in a 73% yield.

reactant | AlCl3 | 33.05 mmol, 4.406 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | anisole | 41.31 mmol, 4.467 g | C1(=CC=CC=C1)OC | C7H8O
reactant | (4-bromo-phenyl)-acetyl chloride | 27.54 mmol, 6.430 g | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
solvent | HCl | 1N, 100 mL | Cl | ClH
product | 2-(4-bromophenyl)-1-(4-methoxyphenyl) ethanone | 6.113 g, 73% yield | BrC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)OC | C15H13BrO2
